US04061641
1-Methyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea
Following the procedure of Example 1 3-[2-(4-aminopiperidyl)ethyl]indole is reacted with methyl isocyanate to give the title compound which is converted to the hydrochloride.

reactant | 3-[2-(4-aminopiperidyl)ethyl]indole | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 1-Methyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea | CNC(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C17H24N4O
